US07342118B2
2-(2-Hydroxy-3-methyl-butyrylamino)-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (S)-2-hydroxy-3-methyl-butyric acid to afford the title compound: 13C NMR (100 MHz, CDCl3) 13.9, 16.1, 19.1, 19.4, 25.9, 32.3, 35.4, 52.8, 55.5, 59.2, 67.4, 68.8, 105.3, 131.3, 137.2, 169.4, 174.1; MS m/z 424.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O2
reactant | (S)-2-hydroxy-3-methyl-butyric acid | O[C@H](C(=O)O)C(C)C | C5H10O3
product | 2-(2-Hydroxy-3-methyl-butyrylamino)-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(C(C(C)C)O)=O)=O | C21H37N5O4
